US04918073
(b) 1-[4,4-Bis(4-fluorophenyl)butyl]-4-ethoxycarbonylaminopiperidine
11 g (64 mmol) of 4-ethoxycarbonylaminopiperidine, 20.5 g (64 mmol) of 4,4-bis(4-fluorophenyl)butyl bromide, 12.9 g (128 mmol) of triethylamine and 0.18 g of potassium iodide were stirred in 180 ml of absolute dimethylformamide at 80° C. for 36 hours, the mixture was diluted with about 1.5 liters of water, 100 ml of 2N NaOH were added and the mixture was extracted twice with methylene chloride.

reactant | 4-ethoxycarbonylaminopiperidine | 64 mmol, 11 g | C(C)OC(=O)NC1CCNCC1 | C8H16N2O2
reactant | 4,4-bis(4-fluorophenyl)butyl bromide | 64 mmol, 20.5 g | FC1=CC=C(C=C1)C(CCCBr)C1=CC=C(C=C1)F | C16H15BrF2
reactant | triethylamine | 128 mmol, 12.9 g | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | 0.18 g | [I-].[K+]
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
solvent | water | about 1.5 liters | O | H2O
solvent | NaOH | 2N, 100 ml | [OH-].[Na+]
product | 1-[4,4-Bis(4-fluorophenyl)butyl]-4-ethoxycarbonylaminopiperidine | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)NC(=O)OCC)C1=CC=C(C=C1)F | C24H30F2N2O2
